US07659268B2
Crude tert-butyl 4-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-3-ethylpyridin-2-yl)benzoate (from step a) was taken up in 1 mL of dichloromethane and 1 mL of trifluoroacetic acid (TFA) and allowed to stir for 3 hours. The crude product was then evaporated to dryness, re-dissolved in 1 mL of N,N-dimethylformamide and purified by reverse-phase preparative liquid chromatography utilizing a gradient of 0-99% acetonitrile in water containing 0.05% TFA to yield 4-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-3-ethylpyridin-2-yl)benzoic acid. ESI-MS m/z calc. 466.1, found 467.3 (M+1)+. Retention time 1.94 minutes.

reactant | tert-butyl 4-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-3-ethylpyridin-2-yl)benzoate | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C2=CC=C(C(=O)OC(C)(C)C)C=C2)CC)F | C29H28F2N2O5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 4-(6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamido)-3-ethylpyridin-2-yl)benzoic acid | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C2=CC=C(C(=O)O)C=C2)CC)F | C25H20F2N2O5
